US07288541B2
A solution of 2.08 g (11.1 mmol) of 5,6-dichloro-1H-benzimidazole and 2.00 g (11.1 mmol) of (4S)-4-tert-butyl-1,3,2-dioxathiolane 2,2-dioxide in 28 mL of N,N-dimethylformamide was stirred as 1.57 g (11.4 mmol) of potassium carbonate was added. The mixture was stirred at 60° C. for 18 h, and then cooled in an ice bath. A solution of 12 mL of acetyl chloride in 120 mL of methanol was then added. The reaction mixture was stirred for one day, and concentrated. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was concentrated, and the residue was slurried in ethyl acetate. The solid was isolated by filtration to yield 1.88 g of (2S)-1-(5,6-dichloro-1H-benzimidazol-1-yl)-3,3-dimethyl-2-butanol. The filtrate was concentrated, and the residue was purified by silica gel column chromatography eluting with ethyl acetate to yield an additional 0.50 g (total yield 2.38 g, 74%) of the title compound. 1H-NMR (300 MHz, DMSO-d6): δ 8.29 (d, J=8 Hz, 2H), 7.90 (s, 1H), 7.86 (s, 1H), 4.96 (d, J=6 Hz, 1H), 4.39 (dd, J=14 Hz, J=2 Hz, 1H), 3.98 (dd, J=14 Hz, J=10 Hz, 1H), 3.32 (m, overlapping H2O), 0.95 (s, 9H).

reactant | 5,6-dichloro-1H-benzimidazole | 11.1 mmol, 2.08 g | ClC1=CC2=C(NC=N2)C=C1Cl | C7H4Cl2N2
reactant | (4S)-4-tert-butyl-1,3,2-dioxathiolane 2,2-dioxide | 11.1 mmol, 2.00 g | C(C)(C)(C)[C@@H]1OS(OC1)(=O)=O | C6H12O4S
reactant | potassium carbonate | 11.4 mmol, 1.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 12 mL | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 28 mL | CN(C=O)C | C3H7NO
solvent | methanol | 120 mL | CO | CH4O
product | (2S)-1-(5,6-dichloro-1H-benzimidazol-1-yl)-3,3-dimethyl-2-butanol | 1.88 g | ClC1=CC2=C(N(C=N2)C[C@H](C(C)(C)C)O)C=C1Cl | C13H16Cl2N2O
